US08486967B2
j) N-(3,3-Difluoro-1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
A degassed solution of 2-(dicyclohexylphosphino)biphenyl (12.7 mg, 36.3 μmol) and palladium(II) acetate (4.08 mg, 18.2 μmol) in dioxane (2 mL) was stirred for 10 minutes at room temperature, then a solution of N-(3,3-difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (87 mg, 227 μmol), 5-chloro-3-methyl-1,2,4-thiadiazole (30.5 mg, 227 μmol) and sodium tert-butoxide (32.7 mg, 340 μmol) in dioxane (2 mL) was added. Through the solution was bubbled argon for 5 minutes, then heated to 150° C. in the microwave for 60 minutes. Again a degassed solution of 2-(dicyclohexylphosphino)biphenyl (12.7 mg, 36.3 μmol) and palladium(II) acetate (4.08 mg, 18.2 μmol) in dioxane (2 mL) was added, followed by 5-chloro-3-methyl-1,2,4-thiadiazole (30.5 mg, 227 μmol) and heated to 150° C. in the microwave for further 60 minutes. Again a degassed solution of 2-(dicyclohexylphosphino)biphenyl (12.7 mg, 36.3 μmol) and palladium(II) acetate (4.08 mg, 18.2 mmol) in dioxane (2 mL) was added, followed by 5-chloro-3-methyl-1,2,4-thiadiazole (30.5 mg, 227 μmol) and heated to 150° C. in the microwave for further 60 minutes. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane) and then by preparative HPLC. The title compound was obtained as white foam (42 mg, 38%).

reactant | 2-(dicyclohexylphosphino)biphenyl | 36.3 μmol, 12.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | N-(3,3-difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 227 μmol, 87 mg | FC1(CNCCC1NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)F | C17H14F5N5
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 227 μmol, 30.5 mg | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | sodium tert-butoxide | 340 μmol, 32.7 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 36.3 μmol, 12.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 227 μmol, 30.5 mg | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | 2-(dicyclohexylphosphino)biphenyl | 36.3 μmol, 12.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 227 μmol, 30.5 mg | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 18.2 μmol, 4.08 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 18.2 μmol, 4.08 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 18.2 mmol, 4.08 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3,3-Difluoro-1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | FC1(CN(CCC1NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)C1=NC(=NS1)C)F | C20H16F5N7S
